US04570005
Preparation of 3-(4-bromophenoxy)benzyl 2-(4-fluorophenyl)-2-ethylpropyl ether is described
To 20 ml of toluene was added 0.60 g of sodium hydride (60% in oil) and the mixture was refluxed, and a solution of 2.0 g of 2-(4-fluorophenyl)-2-methylbutyl alcohol in 10 ml of 40% DMF/toluene was added dropwise to the mixture over a period of 20 minutes. The mixture was stirred for 10 minutes and a solution of 4.0 g of 3-(4-bromophenoxy)benzyl bromide in 10 ml of toluene was added dropwise to the mixture over a period of 10 minutes. The mixture was further heated and refluxed for 1 hour and cooled to room temperature, and poured into water. The toluene layer was separated, washed with water, dried over Na2SO4, and evaporated under reduced pressure and the obtained crude ether was purified by column chromatography on 100 g of silica gel (1:1 mixed solvent of toluene and hexane was used as eluent) to give 3.7 g of the desired ether (the yield was 76% of the theoretical yield).

reactant | sodium hydride | 0.60 g | [H-].[Na+]
reactant | 2-(4-fluorophenyl)-2-methylbutyl alcohol | 2.0 g | FC1=CC=C(C=C1)C(CO)(CC)C | C11H15FO
reactant | 3-(4-bromophenoxy)benzyl bromide | 4.0 g | BrC1=CC=C(OC=2C=C(CBr)C=CC2)C=C1 | C13H10Br2O
reactant | water | O | H2O
solvent | DMF toluene | 10 ml | CN(C)C=O.C1(=CC=CC=C1)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-bromophenoxy)benzyl 2-(4-fluorophenyl)-2-ethylpropyl ether | yield was 76% | FC1=CC=C(C=C1)C(COCC1=CC(=CC=C1)OC1=CC=C(C=C1)Br)(C)CC | C24H24BrFO2
